US04906669
A solution of 3,7,11,15-tetramethyl-2-hexadecen-1-ol (2.97 g;10.0 mmole) in dioxane (8 ml) was dropwise added to a solution of 2,6-di-tert-butyl phenol (4.13 g;200 mmole) and boron trifluoride ethyl etherate (0.86 g;6.0 mmole) in dioxane (20 ml) at 40° C. over one hour. After stirring the resultant solution at that temperature for 2.5 hours, the reaction solution was poured into water (30 ml) and was then extracted once with ethyl acetate (20 ml). The extract was successively washed with 30 ml of 5% (w/v) aqueous sodium hydroxide solution containing 3% (w/v) sodium hydrosulfite (once), 30 ml of water (twice) and then 30 ml of saturated aqueous sodium chloride (once) and was dried over anhydrous magnesium sulfate. Then, the solvent and the unreacted 2,6-di-tert-butyl-phenol were distilled off and the resultant residue was subjected to silica gel column chromatography to obtain 440 mg (0.91 mmole) of 2,6,di-tert-butyl-4-(3,7,11,15,tetramethyl-2 -hexadecenyl)-phenol from the fractions eluted through the column with hexane-ethyl acetate (50:1). Yield=9.1%.

reactant | 3,7,11,15-tetramethyl-2-hexadecen-1-ol | 10.0 mmole, 2.97 g | CC(=CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H40O
reactant | 2,6-di-tert-butyl phenol | 200 mmole, 4.13 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | boron trifluoride ethyl etherate | 6.0 mmole, 0.86 g | B(F)(F)F.CCOCC
reactant | water | 30 ml | O | H2O
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2,6,di-tert-butyl-4-(3,7,11,15,tetramethyl-2 -hexadecenyl)-phenol | 0.91 mmole, 440 mg, Yield=9.1% | C(C)(C)(C)C1=C(C(=CC(=C1)CC=C(CCCC(CCCC(CCCC(C)C)C)C)C)C(C)(C)C)O | C34H60O
